US07713979B2
3-(4-Bromo-2-chloro-benzyl)-1-cyclohexyl-piperidin-2-one
Dissolve 1-cyclohexyl-piperidin-2-one (0.2 g, 1.10 mmol) in dry DMF (11 mL) cool to −78° C. and add lithium bis(trimethylsilyl)amide (1.66 mL of 1.0 M solution in THF, 1.66 mmol). After 15 min add 1-bromomethyl-2-chloro-4-bromobenzene (0.63 g, 2.21 mmol), and allow the mixture to warm to room temperature over 15 h. Partition the mixture between ether and brine, dry the organic layer over sodium sulfate and evaporate. Purify the residue by chromatography on silica gel (eluting 0% to 100% ethyl acetate in hexane) to give the desired product (0.16 g, 38%). MS (ES+) m/z=384, 386 (M+H)+.

reactant | 1-cyclohexyl-piperidin-2-one | 1.10 mmol, 0.2 g | C1(CCCCC1)N1C(CCCC1)=O | C11H19NO
reactant | lithium bis(trimethylsilyl)amide | 1.66 mmol, 1.0 M, 1.66 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1-bromomethyl-2-chloro-4-bromobenzene | 2.21 mmol, 0.63 g | BrCC1=C(C=C(C=C1)Br)Cl | C7H5Br2Cl
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
product | 3-(4-Bromo-2-chloro-benzyl)-1-cyclohexyl-piperidin-2-one | 0.16 g, 38% | BrC1=CC(=C(CC2C(N(CCC2)C2CCCCC2)=O)C=C1)Cl | C18H23BrClNO
